US07572808B2
Preparation of 6-(2-chlorophenyl)-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
Into a flame-dried 25 mL round bottom flask was placed 6-bromo-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (25 mg, 0.05 mmol), 2-chlorophenylboronic acid (16 mg, 0.1 mmol), K3PO4 (43 mg, 0.2 mmol), Pd(dba)3 (4.6 mg, 0.005 mmol), and S-Phos (dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine, 4.2 mg, 0.01 mmol). The reaction flask was purged with argon three times before toluene (1 mL) was added. The reaction mixture was stirred at 95° C. for 16 h. Analysis by HPLC/MS indicated the starting 6-bromo-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one had been consumed. After cooling to room temperature, the reaction mixture was partitioned between EtOAc and water. The aqueous layer was extracted with EtOAc (15 mL×2). The combined EtOAc extracts were washed with saturated aqueous NaCl, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified using a silica gel cartridge (4 g) eluted with a gradient of EtOAc (30-70%) in hexanes to afford the desired product (86% pure). The product was further purified by preparative reverse phase HPLC (Phenomenex Luna 5 μm C-18 21.2×100 mm column eluted with a linear gradient of 70% to 100% B over 10 min (A=90% water, 10% methanol and B=90% methanol, 10% water) with flow rate at 20 mL/min and UV detection at 220 nm). The desired fractions were concentrated under reduced pressure. The residue obtained was dissolved in acetonitrile, frozen and lyophilized to afford 10 mg (40%) of the title compound as a light yellow powder. HPLC/MS: retention time=4.13 min, [M+H]+=529.3.

reactant | 6-bromo-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.05 mmol, 25 mg | BrC=1C(=CC=2N(C1C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C20H13BrClF3N4O
reactant | 2-chlorophenylboronic acid | 0.1 mmol, 16 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | K3PO4 | 0.2 mmol, 43 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | S-Phos | 0.01 mmol, 4.2 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
product | 6-(2-chlorophenyl)-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 86% | ClC1=C(C=CC=C1)C=1C(=CC=2N(C1C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O)C2=CC=C(C=C2)Cl | C26H17Cl2F3N4O
